US06174458B1
To a mixture of 4-(4-methoxymethylcyclohexyl)-1-iodobenzene (297 mmol) and 250 ml of THF, was added dropwise 200 ml of a solution of n-butyl lithium (corresponding to 312 mmol) in hexane at −78° C. in 3.0 hours, and stirred at the same temperature for 1.2 hours. To the solution was added dropwise 100 ml of a solution of triisopropyl borate (594 mmol) in THF, the solution was gradually warmed up to room temperature, and then the solution was stirred overnight. After 270 ml of 7.3% hydrochloric acid was added and stirred for 30 min, the reaction solution was extracted twice with diethyl ether, washed thrice with water, and dried over anhydrous magnesium sulfate. The solvent was distilled off and the residue was washed with heptane to give a white solid of 4-(4-methoxymethylcyclohexyl) phenyl boric acid (60.1 mmol).

reactant | 4-(4-methoxymethylcyclohexyl)-1-iodobenzene | 297 mmol | COCC1CCC(CC1)C1=CC=C(C=C1)I | C14H19IO
reactant | n-butyl lithium | 312 mmol | C(CCC)[Li]
reactant | triisopropyl borate | 594 mmol | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | hydrochloric acid | 270 ml | Cl | ClH
solvent | hexane | CCCCCC | C6H14
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | 4-(4-methoxymethylcyclohexyl) phenyl boric acid | 60.1 mmol | COCC1CCC(CC1)C1=CC=C(C=C1)OB(O)O | C14H21BO4
